US06624159B2
Ethyl 8-Bromo-2,2-dimethyl-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxylate [C.4]
Ethyl 2,2-dimethyl-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxylate (Preparation 12, 1.03 g) is dissolved in acetic acid (10 mL) and bromine (213 μL) is added dropwise. The reaction is stirred an additional 30 min and then poured into water (50 mL). The resulting precipitate is filtered and then washed with ether to give 506 mg (38%) of the title compound as white crystals. Physical characteristics: M.p. 227-228° C.; 1H NMR (DMSO-d6) δ8.76, 7.90, 7.79, 4.23, 3.41, 1.63, 1.29; IR (diffuse reflectance) 1727, 1636, 1612, 1592, 1547, 1505, 1393, 1373, 1327, 1303, 1217, 1171, 1167, 1128, 804 cm−1; HRMS (FAB) 350.0386 (C16H16BrNO3+H).

reactant | Ethyl 2,2-dimethyl-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxylate | 1.03 g | CC1(CC=2C=CC=C3C(C(=CN1C23)C(=O)OCC)=O)C | C16H17NO3
reactant | bromine | 213 μL | BrBr | Br2
reactant | water | 50 mL | O | H2O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | Ethyl 8-Bromo-2,2-dimethyl-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxylate | 506 mg, 38% | BrC=1C=C2C(C(=CN3C2=C(C1)CC3(C)C)C(=O)OCC)=O | C16H16BrNO3
